US08242153B2
To a stirred, cooled (0° C.) solution of sodium borohydride (1.0 g) in methanol (20 ml) under an argon atmosphere was added slowly a solution of [1-(3,5-difluoro-phenyl)-cyclopropyl]-acetaldehyde in methanol (10 ml). Stirring was continued at room temperature overnight, then the reaction mixture was quenched by slow addition of water. Methanol was evaporated and the aqueous phase was extracted with ethyl acetate twice. The combined organic layers were dried over MgSO4 and concentrated to give 2-[1-(3,5-difluoro-phenyl)-cyclopropyl]-ethanol as yellow liquid (2.37 g). 1H-NMR (300 MHz, CDCl3, δ): 0.76-0.86 (m, 4H), 1.85 (t, J=7 Hz, 2H), 3.61-3.62 (m, 2H), 6.60-6.67 (m, 1H), 6.78-6.85 (m, 2H).

reactant | sodium borohydride | 1.0 g | [BH4-].[Na+]
reactant | [1-(3,5-difluoro-phenyl)-cyclopropyl]-acetaldehyde | FC=1C=C(C=C(C1)F)C1(CC1)CC=O | C11H10F2O
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 2-[1-(3,5-difluoro-phenyl)-cyclopropyl]-ethanol | 2.37 g | FC=1C=C(C=C(C1)F)C1(CC1)CCO | C11H12F2O
